US05756518
To a solution of 1.00 g (3.76 mmol) of 3-(2-quinazolinylmethoxy)benzyl alcohol in 10 ml of CHCl3, 0.5 ml of SOCl2 was added, followed by stirring at room temperature for 15 hours. A small amount of MeOH was added to the reaction mixture and the solvents were distilled off under reduced pressure, whereby 1.08 g of 3-(2-quinazolinylmethoxy)benzyl chloride were obtained as white powder.

reactant | 3-(2-quinazolinylmethoxy)benzyl alcohol | 3.76 mmol, 1.00 g | N1=C(N=CC2=CC=CC=C12)COC=1C=C(CO)C=CC1 | C16H14N2O2
reactant | MeOH | CO | CH4O
reactant | CHCl3 | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | SOCl2 | 0.5 ml | O=S(Cl)Cl | Cl2OS
product | 3-(2-quinazolinylmethoxy)benzyl chloride | 1.08 g | N1=C(N=CC2=CC=CC=C12)COC=1C=C(CCl)C=CC1 | C16H13ClN2O
